US08221719B2
Synthesis of methyl 2-(methoxycarbonyl)-8-(trityloxy)octanoate (15)
Sodium methoxide (1.42 g, 26.2 mmol) was dissolved in dry MeOH (90 mL). Dimethyl malonate (3.0 mL, 26.2 mmol) was added and the mixture was stirred at r.t. for one hour. (6-Bromohexyloxy)triphenylmethane (3.7 g, 8 7 mmol) was added and the mixture was refluxed overnight. The mixture was cooled to r.t. and 50 mL 10% citric acid was added. The mixture was then stirred at r.t. for 5 min. The product was extracted with CH2Cl2 (3×100 mL) and evaporated to dryness. The residue was dissolved in CH2Cl2 and dried with Na2SO4. Purification on silica gel (petroleum ether, by 40-60° C./ethyl acetate 10:1) yielded 2.3 g (56%) of the title compound. ESI-TOF-MS [M+Na]+: calc. for C30H34NaO5+ 497.23. found 497.17.

reactant | Sodium methoxide | 26.2 mmol, 1.42 g | C[O-].[Na+]
reactant | Dimethyl malonate | 26.2 mmol, 3.0 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | (6-Bromohexyloxy)triphenylmethane | 7 mmol, 3.7 g | BrCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27BrO
reactant | citric acid | 50 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | 90 mL | CO | CH4O
product | methyl 2-(methoxycarbonyl)-8-(trityloxy)octanoate | 2.3 g, 56% | COC(=O)C(C(=O)OC)CCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H34O5
